US08119676B2
To a solution of (S)-3-(4-benzyl-piperazin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3.7 g, 10.83 mmol) in EtOH (75 mL) and acetic acid (50 mL) 10% Pd on carbon (0.58 g, 0.54 mmol) was added. The reaction mixture was hydrogenated under 1 atm H2 for 18 hours, filtered through Celite and concentrated in vacuo to afford (S)-3-piperazin-1-yl-pyrrolidine-1-carboxylic acid tert-butyl ester as an orange oil. The product was used without further purification.

reactant | (S)-3-(4-benzyl-piperazin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.83 mmol, 3.7 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1CCN(CC1)CC1=CC=CC=C1 | C20H31N3O2
reactant | acetic acid | 0.54 mmol, 50 mL, 0.58 g | C(C)(=O)O | C2H4O2
solvent | EtOH | 75 mL | CCO | C2H6O
product | (S)-3-piperazin-1-yl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1CCNCC1 | C13H25N3O2
